US05371239
Preparation of 1-Benzyl-2,4,5-tribromopyrrole-3-carbonitrile
To a stirred mixture of 1.00 g (3.04 mmol) of 2,4,5-tribromopyrrole-3-carbonitrile and 0.68 g (6.1 mmo1) of potassium ! -butoxide in 30 mL of dry THF under a nitrogen atmosphere is added 1.10 mL of benzyl bromide. The mixture is heated to reflux and stirred overnight. After dilution with 100 mL of water and 150 mL of ethyl acetate, the organic mixture is separated and washed with salt solution, dried over magnesium sulfate, and concentrated in vacuo to leave 2.34 g of orange oil. The oil is triturated under a mixture of 5:1 hexane/ether to give a white solid collected by filtrations 0.81 g, mp 100°-103° C. The filtrate yields a second crop; 0.11 g, mp 100°-103° C.

reactant | 2,4,5-tribromopyrrole-3-carbonitrile | 3.04 mmol, 1.00 g | BrC=1NC(=C(C1C#N)Br)Br | C5HBr3N2
reactant | potassium | 0.68 g | [K] | K
reactant | butoxide | [O-]CCCC
reactant | benzyl bromide | 1.10 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-2,4,5-tribromopyrrole-3-carbonitrile | 2.34 g | C(C1=CC=CC=C1)N1C(=C(C(=C1Br)Br)C#N)Br | C12H7Br3N2
